US08461107B2
Intermediate A9: (1R,2R)-2-pent-4-en-1-ylcyclopentanol
A stirred solution of (1R,2R)-2-pent-4-en-1-ylcyclopentyl acetate (3.79 g, 19.3 mmol) in MeOH (320 ml) was treated with methanolic NaOMe (25%, 8.1 ml, 35.4 mmol) and stirred for 15 hours at 20° C. DOWEX 50WX8-100 ion-exchange resin (washed with MeOH) was added portionwise until the pH was neutral, then the mixture was filtered through CELITE. The filtrate was concentrated in vacuo, and the residue was partitioned between EtOAc and H2O. The organic layer was separated, washed with brine, and dried over Na2SO4. Filtration and removal of the volatiles afforded the title compound (2.61 g, 88%) as a liquid that was used directly in the subsequent reactions. [α]D −37.3 (c=0.65, CHCl3).

reactant | (1R,2R)-2-pent-4-en-1-ylcyclopentyl acetate | 19.3 mmol, 3.79 g | C(C)(=O)O[C@H]1[C@@H](CCC1)CCCC=C | C12H20O2
reactant | NaOMe | 35.4 mmol, 8.1 ml | C[O-].[Na+]
solvent | MeOH | 320 ml | CO | CH4O
product | (1R,2R)-2-pent-4-en-1-ylcyclopentanol | 2.61 g, 88% | C(CCC=C)[C@H]1[C@@H](CCC1)O | C10H18O
